US08137821B2
Synthesis of 8-trifluoromethanesulfonyloxyquinoline
A yellow solution in which 7.26 g (50 mmol) of 8-quinolinol, 50 ml of methylene chloride and 9.1 ml (65 mmol) of triethylamine were mixed was cooled to 0° C. in an ice-bath, and then 9.3 ml (55 mmol) of trifluoromethanesulfonic anhydride was added dropwise thereto. After completion of the dropwise addition, the reaction mixture varied to approximately black was stirred for 1 hour while the reaction temperature was maintained to 0° C. After completion of the reaction, 200 ml of water and 250 ml of diethyl ether were added to the reaction mixture to separate the solution. The resulting organic layer was washed with 1 mol/L (liter) of hydrochloric acid (125 ml×2 times) and water (125 ml×once) in the order and subsequently dried over magnesium sulfate. After filtration, diethyl ether was distilled off from the filtrate under reduced pressure and the resulting residue was dissolved in 250 ml of hexane at 70° C. The insolubles were filtered off, and then the filtrate was cooled to give 12.6 g of the desired compound as a brownish white crystal (yield: 91%).

reactant | 8-quinolinol | 50 mmol, 7.26 g | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 65 mmol, 9.1 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 55 mmol, 9.3 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 8-trifluoromethanesulfonyloxyquinoline | 12.6 g, yield: 91% | FC(S(=O)(=O)OC=1C=CC=C2C=CC=NC12)(F)F | C10H6F3NO3S
